US05095038
Triethylamine (4.54 g) was added to a mixture of methyl 4-[7-formylnaphth-1-ylmethyl]-3-methoxybenzoate (5.00 g), succinic anhydride (2.99 g), zinc chloride (6.11 g) and methylene chloride (50 ml). During the addition, the reaction was cooled with an ambient temperature bath. The mixture was stirred for 18 h and poured into a vigorously stirred solution of 1:1 ethyl acetate:2N hydrochloric acid (500 ml). The organic layer was washed (water, brine) and dried (MgSO4). After the evaporation of solvent and dissolving the residue in saturated sodium bicarbonate, the solution was washed with ether. The aqueous solution was neutralized with 6N hydrochloric acid, acidified to pH 2 with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed (water, brine), dried (MgSO4) and evaporated to give methyl 4-[7-(3-carboxy-2,3,4,5-tetrahydro-5-oxofuran-2-yl)naphth-1-ylmethyl]-3-methoxybenzoate (6.16 g, 95%, as a mixture of diastereomers) as a pale yellow foam; MS(CI), m/e=434(M+H).

reactant | Triethylamine | 4.54 g | C(C)N(CC)CC | C6H15N
reactant | methyl 4-[7-formylnaphth-1-ylmethyl]-3-methoxybenzoate | 5.00 g | C(=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C21H18O4
reactant | succinic anhydride | 2.99 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 2N, 500 ml | Cl | ClH
catalyst | zinc chloride | 6.11 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-[7-(3-carboxy-2,3,4,5-tetrahydro-5-oxofuran-2-yl)naphth-1-ylmethyl]-3-methoxybenzoate | C(=O)(O)C1C(OC(C1)=O)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H22O7
